US07105544B2
N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOPROPANECARBOXAMIDE
Example 71 was prepared from 1-(4-chlorophenyl)cyclopropanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.51 (s, 1H), 7.39–7.34 (m, 6H), 7.26 (t, 1H, J=7.2 Hz), 6.96 (d, 1H, J=7.6 Hz), 5.68 (br s, 1H), 3.26 (dd, 2H, J=6.8, 12.8 Hz), 2.88 (d, 2H, J=13.2 Hz), 2.45 (m, 1H), 2.30 (t, 2H, J=7.2 Hz), 2.19 (s, 3H), 1.96 (t, 2H, J=11.6 Hz), 1.78 (d, 2H, J=12.8 Hz), 1.65–1.58 (m, 6H), 1.02 (dd, 2H, J=3.6, 6.8 Hz); ESMS m/e: 454.2 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclopropanecarboxylic acid | ClC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}acetamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C)=O | C16H25N3O
product | N-(3-{4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-CHLOROPHENYL)CYCLOPROPANECARBOXAMIDE | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNC(=O)C1(CC1)C1=CC=C(C=C1)Cl | C26H32ClN3O2
